US06528525B1
(d) Ethyl 3-[4-(3-azidopropoxy)phenyl]-2-butylpropionate
In a similar manner to that described in Reference example 3(h), a reaction was carried out using ethyl 2-butyl-3-[4-(3-methanesulfonyloxypropoxy)phenyl]propionate (2.98 g) and sodium azide (1.50 g) and the reaction mixture was treated to afford the desired compound (2.45 g) as a colorless oil.

reactant | ethyl 2-butyl-3-[4-(3-methanesulfonyloxypropoxy)phenyl]propionate | 2.98 g | C(CCC)C(C(=O)OCC)CC1=CC=C(C=C1)OCCCOS(=O)(=O)C | C19H30O6S
reactant | sodium azide | 1.50 g | [N-]=[N+]=[N-].[Na+]
product | Ethyl 3-[4-(3-azidopropoxy)phenyl]-2-butylpropionate | 2.45 g | N(=[N+]=[N-])CCCOC1=CC=C(C=C1)CC(C(=O)OCC)CCCC | C18H27N3O3
